US09447106B2
A mixture of (E)-2-(4-(dimethylamino)-2-oxobut-3-enyl)isoindoline-1,3-dione (600 mg, 2.33 mmol) and 5-amino-3-(4-phenoxy phenyl)-1H-pyrazole-4-carbonitrile (642 mg, 2.33 mmol) in 20 mL of HOAc was stirred and heated to 120° C. for 15 hr. The mixture was concentrated and suspended in 30 mL of solvent (PE/EA=4/1). The mixture was filtered and the solid was purified by pre-TLC (DCM/EA=50/1) to give 430 mg (40%) of 7-((1,3-dioxoisoindolin-2-yl)methyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile as a solid. 1H NMR (400 MHz, DMSO-d6) δ 8.74 (d, J=4.4 Hz, 1H), 8.05 (d, J=8.8 Hz, 2H), 7.96-7.90 (m, 1H), 7.88-7.85 (m, 2H), 7.50 (d, J=4.4 Hz, 1H), 7.46-7.37 (m, 2H), 7.21-7.09 (m, 5H), 5.32 (s, 2H). MS (ESI) m/e [M+1]+ 472.1.

reactant | (E)-2-(4-(dimethylamino)-2-oxobut-3-enyl)isoindoline-1,3-dione | 2.33 mmol, 600 mg | CN(/C=C/C(CN1C(C2=CC=CC=C2C1=O)=O)=O)C | C14H14N2O3
reactant | 5-amino-3-(4-phenoxy phenyl)-1H-pyrazole-4-carbonitrile | 2.33 mmol, 642 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C16H12N4O
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
product | 7-((1,3-dioxoisoindolin-2-yl)methyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 430 mg, 40% | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=NC=2N1N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C28H17N5O3
